US08293768B2
Synthesis of ethyl 5-(3-benzyl-2-oxoimidazolidin-1-yl)-3-methylthiophene-2-carboxylate
Following the procedure as described in Example 13, making variations as required to replace 4-(trifluoromethyl)benzyl bromide with benzyl bromide to react with ethyl 3-methyl-5-(2-oxoimidazolidin-1-yl)thiophene-2-carboxylate, the title compound was obtained as a colorless solid in 94% yield: 1H NMR (300 MHz, CDCl3) δ 7.39-7.25 (m, 5H), 6.15 (s, 1H), 4.48 (s, 2H), 4.28 (q, J=7.1 Hz, 2H), 3.83-3.75 (m, 2H), 3.48-3.40 (m, 2H), 2.49 (s, 3H), 1.34 (t, J=7.1 Hz, 3H); MS (ES+) m/z 345.3 (M+1).

reactant | 4-(trifluoromethyl)benzyl bromide | FC(C1=CC=C(CBr)C=C1)(F)F | C8H6BrF3
reactant | benzyl bromide | C(C1=CC=CC=C1)Br | C7H7Br
reactant | ethyl 3-methyl-5-(2-oxoimidazolidin-1-yl)thiophene-2-carboxylate | CC1=C(SC(=C1)N1C(NCC1)=O)C(=O)OCC | C11H14N2O3S
product | ethyl 5-(3-benzyl-2-oxoimidazolidin-1-yl)-3-methylthiophene-2-carboxylate | 94% yield | C(C1=CC=CC=C1)N1C(N(CC1)C1=CC(=C(S1)C(=O)OCC)C)=O | C18H20N2O3S
